US04176116
7.5 g (0.034 mol) of N-benzyloxycarbonyl-L-alanine were dissolved in 50 ml of dry tetrahydrofuran and the solution was cooled to -5° C. 4.26 ml (0.034 mol) of N-ethylmorpholine and 4.14 ml (0.034 mol) of pivaloyl chloride were then added and the solution was stirred at -5° C. for 30 minutes. To this mixture was then added a solution of 7.0 g (0.034 mol) of L-alanine ethylamide hydrobromide in 50 ml of dimethylformamide followed by 8.5 ml (0.068 mol) of N-ethylmorpholine. The solution was stirred at -10° C. for 1 hour and then left to stand for 16 hours at room temperature. The solvents were removed by evaporation; the product crystallising on the addition of water. The yield of N-benzyloxycarbonyl-L-alanyl-L-alanine obtained was 9.05 g (83%); melting point 203°-205° C.; [α]D20 =-1.1° (c=1.02% in dimethylformamide; [α] 36520 =-9.2° (c=1.02% in dimethylformamide).

reactant | N-benzyloxycarbonyl-L-alanine | 0.034 mol, 7.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | N-ethylmorpholine | 0.034 mol, 4.26 ml | C(C)N1CCOCC1 | C6H13NO
reactant | pivaloyl chloride | 0.034 mol, 4.14 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | L-alanine ethylamide hydrobromide | 0.034 mol, 7.0 g | Br.C(C)NC([C@@H](N)C)=O
reactant | N-ethylmorpholine | 0.068 mol, 8.5 ml | C(C)N1CCOCC1 | C6H13NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-benzyloxycarbonyl-L-alanyl-L-alanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C14H18N2O5
